US06828317B2
N-{3-[3-Fluoro-4-(6(S)-methyl-5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-acetamide
2-[4-(5-Aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-6-methyl-4H-[1,3,4]thiadiazin-5-one, trifluoroacetate salt is dissolved in pyridine (2 ml) and acetic anhydride (0.0163 ml, 0.173 mmol) is added. The reaction is stirred at room temperature for 4 hours and then evaporated to dryness. The residue is purified by PTLC (10% MeOH/DCM) to give pure product as a white solid (0.046 g, 76%); 1HNMR (300 MHz, DMSO-d6) δ 1.34 (d, J=7.1 Hz, 3H), 1.82 (s, 3H), 3.41 (t, J=5.5, 2H), 3.71-3.82 (m, 2H), 4.14 (t, J=9.3 Hz, 1H), 4.71-4.79 (m, 1H), 7.41 (dd, J=1.9, 8.8 Hz, 1H), 7.58 (dd, J=1.7, 14, 1H), 7.68 (t, J=8.5, 1H), 8.25 (t, J=5.5 Hz, 1H), 11.7 (s, 1H); mp 200-2; MS (m/z): [M+H]+=381.

reactant | 2-[4-(5-Aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-6-methyl-4H-[1,3,4]thiadiazin-5-one, trifluoroacetate salt | FC(C(=O)O)(F)F.NCC1CN(C(O1)=O)C1=CC(=C(C=C1)C=1SC(C(NN1)=O)C)F
reactant | acetic anhydride | 0.173 mmol, 0.0163 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-{3-[3-Fluoro-4-(6(S)-methyl-5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-acetamide | 0.046 g, 76% | FC=1C=C(C=CC1C=1S[C@H](C(NN1)=O)C)N1C(O[C@H](C1)CNC(C)=O)=O | C16H17FN4O4S
